US05481006
Methyl 2,6-di-O-benzyl-α-D-mannopyranoside.
A ca. 2:1 mixture of exo- and endo-isomers of bis-[(2,3-O-), (4,6-O-)]benzylidene-α-D-mannopyranoside (Carbohydrates, Ed. Collins, P. M., Chapman and Hall, New York, 1987, p. 350) was prepared by reaction of methyl α-D-mannopyranoside with 2.2 eq of α,α-dimethoxytoluene and catalytic p-toluenesulfonic acid in acetonitrile. This compound was treated with NaBH4 and HCl (Garegg, P. J.; Hultberg, H. Carbohydrate Res. 1981, 93, C10) to provide a mixture of products from which the methyl 2,6-O-benzyl-α-D-mannopyranoside was isolated by flash chromatography. The assignment of this isomer was confirmed by 1H decoupling experiments on the corresponding bis-(3,4-O-diphenylphosphino) derivative (ligand VA). 1H NMR δ7.42-7.24 (m, 10), 4.81 (d, 1, J=1 Hz), 4.75-4.54 (m, 4) 3.78-3.71 (m, 6), 3.36 (s, 3), 2.83 (bs, 1), 2.43 (bs, 1).

reactant | methyl α-D-mannopyranoside | O([C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C | C7H14O6
reactant | α,α-dimethoxytoluene | 2.2 eq | COC(C1=CC=CC=C1)OC | C9H12O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaBH4 | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | Methyl 2,6-di-O-benzyl-α-D-mannopyranoside | C(C1=CC=CC=C1)O[C@@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1O)O)COCC1=CC=CC=C1 | C21H26O6
